US04079066
4-(4-Fluoro-1-naphthyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-2H-chromene
Reaction of 4-fluoro-1-naphthylmagnesium bromide with an equivalent amount of 2,2-dimethyl-7-(2-dimethylaminoethoxy)-4-chromanone in dry tetrahydrofuran, by an analogous method to that described in Example 1 gave the title compound (14%). The hydrochloride salt had m.p. 224.5°-226° C.

reactant | 4-fluoro-1-naphthylmagnesium bromide | FC1=CC=C(C2=CC=CC=C12)[Mg]Br
reactant | 2,2-dimethyl-7-(2-dimethylaminoethoxy)-4-chromanone | CC1(OC2=CC(=CC=C2C(C1)=O)OCCN(C)C)C | C15H21NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(4-Fluoro-1-naphthyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-2H-chromene | 14% | FC1=CC=C(C2=CC=CC=C12)C1=CC(OC2=CC(=CC=C12)OCCN(C)C)(C)C | C25H26FNO2
